US04546179
Preparation of 2-Chloro-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide
A slurry of 23.8 g (0.10 mole) 2-chlorobenzenesulfonyl chloride, 16.2 g (0.2 mole) potassium cyanate, 15.5 g (0.11 moles) 4,6-dimethyl-2-pyrimidinamine in 150 ml acetonitrile was stirred at reflux for 5 hours. The reaction was cooled to 25° and filtered. The solids were dissolved in water, filtered, and the filtrate acidified to give a solid A. The reaction filtrate was distilled in vacuo to remove solvent. The residue and Solid A were combined, dissolved in 200 ml of 5% sodium hydroxide and extracted with methylene chloride. The aqueous layer was then acidified, the solids collected, washed with water and dried to give 18.9 g (50.6% of theory) of the title compound. The m.p. and IR spectrum of the title compound were identical to those of an authentic sample prepared as described in U.S. Pat. No. 4,169,719.

reactant | 2-chlorobenzenesulfonyl chloride | 0.10 mole, 23.8 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | potassium cyanate | 0.2 mole, 16.2 g | [O-]C#N.[K+]
reactant | 4,6-dimethyl-2-pyrimidinamine | 0.11 moles, 15.5 g | CC1=NC(=NC(=C1)C)N | C6H9N3
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-Chloro-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)C)C | C13H13ClN4O3S
